US07365095B2
To a solution of 2′,6-dichloro-biphenyl-2-ol (10.0 g, 41.8 mmol) in DMF was added sodium hydride (60% in mineral oil, 2.5 g, 62.7 mmol) and allyl bromide (5.4 mL, 62.7 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight. The mixture was extracted with ethyl acetate, washed with water and saturated sodium chloride, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by ISCO using a solvent gradient of 0 to 30% ethyl acetate in hexanes provided 11.6 g (100%) of 2-allyloxv-2′,6-dichlorobiphenyl as a light yellow oil

reactant | 2′,6-dichloro-biphenyl-2-ol | 41.8 mmol, 10.0 g | ClC1=C(C=CC=C1)C=1C(=CC=CC1Cl)O | C12H8Cl2O
reactant | sodium hydride | 62.7 mmol, 2.5 g | [H-].[Na+]
reactant | allyl bromide | 62.7 mmol, 5.4 mL | C(C=C)Br | C3H5Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-allyloxv-2′,6-dichlorobiphenyl | 11.6 g, 100% | C(C=C)OC1=C(C(=CC=C1)Cl)C1=C(C=CC=C1)Cl | C15H12Cl2O
